US05672715
To a solution of 0.5 g of 2-chloro-4-fluoro-5-[4-formyl-1-methyl-5-(trifluoromethyl)-1H-pyrazol-3-yl]benzoic acid, 1-methylethyl ester in 50 ml of anhydrous tetrahydrofuran was added 4 mL of 1M borane in THF solution. The reaction was stirred overnight and then poured onto water, extracted into diethyl ether, dried over anhydrous magnesium sulfate and concd in vacuo to give 0.5 g of 2-chloro-4-fluoro-5-[4-(hydroxymethyl)-1-methyl-5-(trifluoromethyl)-1H-pyrazol-3-yl]benzoic acid, 1-methylethyl ester as a clear oil: 1HNMR (CDCl3) δ 8.10 (d, 1H J=7.7,), 7.36 (d, 1H, J=9.6), 5.29 (m, 1H), 4.62 (s, 2H), 4.10 (s, 3H), 1.42 (d, 6H, J=6.6); 19FNMR (CDCl3) ppm: -58.82, -109.09.

reactant | 2-chloro-4-fluoro-5-[4-formyl-1-methyl-5-(trifluoromethyl)-1H-pyrazol-3-yl]benzoic acid, 1-methylethyl ester | 0.5 g | ClC1=C(C(=O)OC(C)C)C=C(C(=C1)F)C1=NN(C(=C1C=O)C(F)(F)F)C | C16H13ClF4N2O3
reactant | borane | 1M, 4 mL | B | BH3
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
solvent | THF | C1CCOC1 | C4H8O
product | 2-chloro-4-fluoro-5-[4-(hydroxymethyl)-1-methyl-5-(trifluoromethyl)-1H-pyrazol-3-yl]benzoic acid, 1-methylethyl ester | 0.5 g | ClC1=C(C(=O)OC(C)C)C=C(C(=C1)F)C1=NN(C(=C1CO)C(F)(F)F)C | C16H15ClF4N2O3
